US04006245
A solution of 2.15 parts of sodium hydrogen carbonate in 40 parts of water was added to a refluxing solution of 3.0 parts of ethyl 4-oxo-7-[7-(2-n-propyl phenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylate in 50 parts of ethanol. More water was added to produce a clear solution which was refluxed for 2 hours. Acidification of the filtrate precipitated the acid as a semi-solid mass which was converted to a fine solid by persistent mechanical disruption of the gum cakes. The solid was filtered off, dried and crystallised from benzene/petrol (bp. 80°-100°) to furnish 2.8 parts of 4-oxo-7-[7-(2-n-propylphenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylic acid as white microcrystals, mp. 149°-150° .

reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethyl 4-oxo-7-[7-(2-n-propyl phenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylate | O=C1C=C(OC2=C1C=CC(=C2)OCCCCCCCOC2=C(C=CC=C2)CCC)C(=O)OCC | C28H34O6
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-oxo-7-[7-(2-n-propylphenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylic acid | O=C1C=C(OC2=C1C=CC(=C2)OCCCCCCCOC2=C(C=CC=C2)CCC)C(=O)O | C26H30O6
